US08420631B2
4-[(Cyclopentanecarbonyl-amino)-methyl]-phenyl-boronic acid
Dissolve 4-aminomethylphenyl boronic acid hydrochloride (1.0 g, 5.34 mmol) in DCM (50 mL), add triethylamine (1.64 mL, 11.74 mmol) and cool the mixture to 0° C. Add cyclopentanecarbonyl chloride (778 mg, 5.78 mmol) and warm to room temperature. Stir the reaction mixture for 18 h, filter and wash the solid with DCM (10 mL) to give the title compound as a fine white powder (1.1 g, 83%).

reactant | 4-aminomethylphenyl boronic acid hydrochloride | 5.34 mmol, 1.0 g | Cl.NCC1=CC=C(C=C1)B(O)O
reactant | triethylamine | 11.74 mmol, 1.64 mL | C(C)N(CC)CC | C6H15N
reactant | cyclopentanecarbonyl chloride | 5.78 mmol, 778 mg | C1(CCCC1)C(=O)Cl | C6H9ClO
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 4-[(Cyclopentanecarbonyl-amino)-methyl]-phenyl-boronic acid | 1.1 g, 83% | C1(CCCC1)C(=O)NCC1=CC=C(C=C1)B(O)O | C13H18BNO3
